US08735417B2
Sodium bis(trimethylsilyl)amide (164 μL, 1.0 M, 0.164 mmol) was added to a solution of 1-butanethiol (28.1 μL, 0.262 mmol) stirring in DMF (327 μL) at room temperature in an oven-dried vial. Stirred for 15 minutes, then added 4-[5-(3-methyl-5-{[4-(methylsulfonyl)-2-pyrimidinyl]amino}phenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one (30 mg, 0.065 mmol). Stirred at room temperature for 30 minutes, diluted with ethyl acetate (10 mL), and washed with 1:1 water:brine (10 mL). The organic extracts were dried (Na2SO4), filtered, and concentrated in vacuo. Purified by CombiFlash (100:0 to 0:20 dichloromethane:methanol) to afford 4-[5-(3-{[4-(butylsulfanyl)pyrimidin-2-yl]amino}-5-methylphenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one (14.6 mg, 0.031 mmol, 48% yield) as a white solid. MS APCI: [M+H]+ m/z 469.2. 1H NMR (500 MHz, DMSO) δ 9.52 (s, 1H), 8.13 (d, J=5.3 Hz, 1H), 7.60 (dd, J=4.9 Hz, 10.3 Hz, 2H), 7.45 (s, 1H), 7.43 (s, 1H), 6.92 (s, 1H), 6.72 (d, J=5.3 Hz, 1H), 4.16 (s, 2H), 3.84-3.73 (m, 2H), 3.25-3.12 (m, 4H), 2.26 (s, 3H), 1.78 (m, 2H), 1.59 (m, 2H), 1.35 (dd, J=7.4 Hz, 14.9 Hz, 2H), 0.83 (t, J=7.4 Hz, 3H).

reactant | Sodium bis(trimethylsilyl)amide | 0.164 mmol, 1.0 M, 164 μL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1-butanethiol | 0.262 mmol, 28.1 μL | C(CCC)S | C4H10S
reactant | 4-[5-(3-methyl-5-{[4-(methylsulfonyl)-2-pyrimidinyl]amino}phenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one | 0.065 mmol, 30 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)S(=O)(=O)C)C1=CN=C(S1)N1CC(NCCC1)=O | C20H22N6O3S2
solvent | DMF | 327 μL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-[5-(3-{[4-(butylsulfanyl)pyrimidin-2-yl]amino}-5-methylphenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one | 0.031 mmol, 14.6 mg, 48% yield | C(CCC)SC1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C1=CN=C(S1)N1CC(NCCC1)=O | C23H28N6OS2
